US04678781
The starting material was prepared by reaction of ethyl 2-(2-tritylaminothiazol-4-yl)-2-((Z)-hydroxyimino)acetate with benzyl bromide followed by hydrolysis of the ester to give 2-(2-tritylaminothiazol-4-yl)-2-((Z)-benzyloxyimino)-acetic acid; n.m.r. in solvent C: 5.44(s, 2H); 6.69(s, 1H); 7.2-7.7(m, 20H).

reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-2-((Z)-hydroxyimino)acetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/O | C26H23N3O3S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-(2-tritylaminothiazol-4-yl)-2-((Z)-benzyloxyimino)-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCC1=CC=CC=C1 | C31H25N3O3S
